US03991087
Cupruous iodide (7.1 g., 0.037 mole) is suspended in ether (150 ml.) and a 1.66 M solution of methyl lithium in ether (45 ml., 0.075 mole) is added dropwise during 30 minutes. Ethyl 8-acetyl-8-bromo-12-acetoxyheptadecanoate (11.9 g., 0.025 mole) is added dropwise during 30 minutes. The temperature is kept at -4° C to -2° C. during these operations by means of a salt bath. Stirring is continued at this temperature for another 30 minutes; then the mixture is stirred for 2 hours without cooling. The reaction mixture is then treated with 200 ml. of saturated ammonium chloride solution. The organic layer is separated, washed with brine and dried over sodium sulfate. Distillation of the solvent in vacuo leaves the crude product as an orange oil weighing 9.2 g. The product is purified by column chromatography using 250 g. of silica gel and chloroform as the eluant. Ethyl 8-acetyl-8-methyl-12-acetoxyheptadecanoate is obtained as yellow viscous oil.

reactant | iodide | 0.037 mole, 7.1 g | [I-]
reactant | methyl lithium | C[Li]
reactant | Ethyl 8-acetyl-8-bromo-12-acetoxyheptadecanoate | 0.025 mole, 11.9 g | C(C)(=O)C(CCCCCCC(=O)OCC)(CCCC(CCCCC)OC(C)=O)Br | C23H41BrO5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 0.075 mole, 45 ml | CCOCC | C4H10O
product | Ethyl 8-acetyl-8-methyl-12-acetoxyheptadecanoate | C(C)(=O)C(CCCCCCC(=O)OCC)(CCCC(CCCCC)OC(C)=O)C | C24H44O5
